US04477553
(2-Methylresorcinol-acetone resin)
To a solution of 621 g. of 2-methylresorcinol in 1 l. of acetone were added 30 g. of phosphorus oxychloride as a catalyst and the resulting mixture was stirred at room temperature for 24 hours. After completion of the reaction, the reaction mixture was poured into 10 l. of a cold water to give a pale brown powdery resin.

reactant | 2-methylresorcinol | CC1=C(O)C=CC=C1O | C7H8O2
reactant | acetone | CC(=O)C | C3H6O
catalyst | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 2-Methylresorcinol acetone | CC1=C(O)C=CC=C1O.CC(=O)C | InChI=1S/C7H8O2.C3H6O/c1-5-6(8)3-2-4-7(5)9;1-3(2)4/h2-4,8-9H,1H3;1-2H3
